US07456169B2
2,3,6-trifluoropyridin-4-amine
A mixture of 3-chloro-2,5,6-trifluoro-pyridin-4-ylamine (1.82 g, 10 mmol), 5% Pd/C (0.5 g), and Et3N (3.04 g, 30 mmol) in 50 mL of MeOH was equipped with a balloon of hydrogen gas and stirred at room temperature overnight. The solution was filtered through diatomaceous earth (Celite®). The filtrate was concentrated under vacuum and the residue was partitioned between ethyl acetate and H2O. The aqueous layer was extracted with additional ethyl acetate, and the combined organic layers were washed with brine, dried (MgSO4), filtered and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel with 7:3 hexanes/ethyl acetate to provide 1.33 g (90%) of the desired product. MS (DCI) m/e 149 (M+H)+.

reactant | 3-chloro-2,5,6-trifluoro-pyridin-4-ylamine | 10 mmol, 1.82 g | ClC=1C(=NC(=C(C1N)F)F)F | C5H2ClF3N2
reactant | Et3N | 30 mmol, 3.04 g | CCN(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 2,3,6-trifluoropyridin-4-amine | 1.33 g, 90% | FC1=NC(=CC(=C1F)N)F | C5H3F3N2
